US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-methoxyphenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 80 mg (0.21 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 4 ml of THF is mixed with 59.6 μl (0.43 mmol) of triethylamine and 63.8 mg (0.43 mmol) of 4-methoxyphenyl isocyanate. After 16 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 55 mg (52.8% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.21 mmol, 80 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.43 mmol, 59.6 μl | C(C)N(CC)CC | C6H15N
reactant | 4-methoxyphenyl isocyanate | 0.43 mmol, 63.8 mg | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-methoxyphenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC=C(C=C1)OC | InChI=1S/C24H26N4O3S.ClH/c1-31-19-6-4-17(5-7-19)25-24(30)26-18-3-2-16-12-22(32-21(16)13-18)23(29)27-20-14-28-10-8-15(20)9-11-28;/h2-7,12-13,15,20H,8-11,14H2,1H3,(H,27,29)(H2,25,26,30);1H/t20-;/m0./s1
